US07807686B2
2-Amino-5-methoxy-4-methylbenzoic acid (2.7 g, 14.9 mmol, 61%) and aqueous hydriodic acid (40%, 80 mL) were heated at reflux for 36 h. The aqueous was evaporated under vacuum and the residue washed with ether to yield 2-amino-5-hydroxy-4-methylbenzoic acid (INTERMEDIATE V.1) (2.5 g, 14.9 mmol 100%)

reactant | 2-Amino-5-methoxy-4-methylbenzoic acid | 14.9 mmol, 2.7 g | NC1=C(C(=O)O)C=C(C(=C1)C)OC | C9H11NO3
solvent | hydriodic acid | 80 mL | I | HI
product | 2-amino-5-hydroxy-4-methylbenzoic acid | 14.9 mmol, 2.5 g, 100% | NC1=C(C(=O)O)C=C(C(=C1)C)O | C8H9NO3
